US07153854B2
To a solution of ethyl 5-{4-(2-chloro-4-pyridinyl)-7-ethyl-2-[(methylthio)methyl]pyrrolo[1,2-b]pyridazin-3-yl}pentanoate (139 mg) in tetrahydrofuran (4 mL) and water (1 mL) was added oxone (287 mg) and the mixture was stirred at ambient temperature for 4 hours. The solution was diluted with water and extracted with ethyl acetate. The organic layer was separated, washed with saturated sodium bicarbonate solution, sodium thiosulfate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (10:1–1:1) to give ethyl 5-{4-(2-chloro-4-pyridinyl)-7-ethyl-2-[(methylsulfonyl)methyl]pyrrolo[1,2-b]pyridazin-3-yl}pentanoate as an yellow oil (124 mg).

reactant | ethyl 5-{4-(2-chloro-4-pyridinyl)-7-ethyl-2-[(methylthio)methyl]pyrrolo[1,2-b]pyridazin-3-yl}pentanoate | 139 mg | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1CCCCC(=O)OCC)CSC)C(=CC2)CC | C23H28ClN3O2S
reactant | oxone | 287 mg | OOS(=O)[O-].[K+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | ethyl 5-{4-(2-chloro-4-pyridinyl)-7-ethyl-2-[(methylsulfonyl)methyl]pyrrolo[1,2-b]pyridazin-3-yl}pentanoate | 124 mg | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1CCCCC(=O)OCC)CS(=O)(=O)C)C(=CC2)CC | C23H28ClN3O4S
